US07820699B2
66.1 Using general procedure E, (R)-3-aminomethyl-1-N-tert-butoxycarbonyl-pyrrolidine was coupled with 5-chloro-benzo[b]thiophene-2-carboxylic acid to give (R)-3-{[(5-chloro-benzo[b]thiophene-2-carbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester. White solid. MS 392.9 ([M−H]−)

reactant | (R)-3-aminomethyl-1-N-tert-butoxycarbonyl-pyrrolidine | NC[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 5-chloro-benzo[b]thiophene-2-carboxylic acid | ClC1=CC2=C(SC(=C2)C(=O)O)C=C1 | C9H5ClO2S
product | (R)-3-{[(5-chloro-benzo[b]thiophene-2-carbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CC1)CNC(=O)C1=CC2=C(S1)C=CC(=C2)Cl | C19H23ClN2O3S
